US05270324
Step 1: 3-benzylthio-3-methylbutanoic acid
A solution of 3,3-dimethylacrylic acid (7 g, 70 mmol) and benzyl mercaptan (8.9 mL, 7.5 mmol) in piperidine (70 mL) was heated to reflux for 2 days. Piperidine was then evaporated and the product was partitioned between EtOAc and an aqueous solution of 1N HCl. The organic phases were washed with brine and dried over MgSO4. After evaporation of the solvent the product was distilled with a Kugelrohr apparatus under high vacuum (1 mmHg) to give 15.5 g with 99% yield.

reactant | 3,3-dimethylacrylic acid | 70 mmol, 7 g | CC(=CC(=O)O)C | C5H8O2
reactant | benzyl mercaptan | 7.5 mmol, 8.9 mL | C(C1=CC=CC=C1)S | C7H8S
solvent | piperidine | 70 mL | N1CCCCC1 | C5H11N
product | 3-benzylthio-3-methylbutanoic acid | 99% yield | C(C1=CC=CC=C1)SC(CC(=O)O)(C)C | C12H16O2S
